US09340509B2
Synthesis of 3,4-dichloro-2-iodoaniline
To a stirred suspension of 3,4-dichloroaniline (20 g, 123 mmol), HI (48%, 15.7 g, 123 mmol), H2O2 (30%, 8.3 g, 246 mmol) in H2O (62 mL) at r.t. The reaction mixture was stirred in dark at r.t for overnight. The supernatant was discarded, diluted with ethyl acetate:hexanes (1:10), quenched with saturates NaHSO3, stirred for 1 h at ambient temperature, filtered the solids. The filtrate was washed with water, saturated aqueous NaHCO3, dried (Na2SO4), filtered and concentrated to get 1:4 regioisomeric mixture of iodo derivative (minor isomer is required). It was recrystallized from cyclohexane to afford 1:1 mixture of regioisomers enriched in the filtrate. This mixture was further purified by flash column chromatography on silica gel, eluting with ethyl acetate:hexanes (0-2%) to get the required compound as a cream color solid (5.2 g, ˜15% yield). 1H NMR (400 MHz, CDCl3) δ 7.22 (d, J=8.6 Hz, 1H), 6.60 (d, J=8.6 Hz, 1H), 4.32 (br, 2H).

reactant | 3,4-dichloroaniline | 123 mmol, 20 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | HI | 123 mmol, 15.7 g | I | HI
reactant | H2O2 | 246 mmol, 8.3 g | OO | H2O2
solvent | H2O | 62 mL | O | H2O
product | 3,4-dichloro-2-iodoaniline | ClC=1C(=C(N)C=CC1Cl)I | C6H4Cl2IN
